US05399588
[2-(5-Bromo-naphthalen-2-ylmethyl)-3-oxo-cyclohex-1-enyl]-acetic acid
In to a cold (-78° C.) solution of tert-butyl acetate (2.7 mL, 19.96 mmol) in THF (35 mL) was added lithium bis(trimethylsilyl)amide solution (1.0M, 21.62 mL, 21.62 mmol). After stirring for 2 hours a solution of trifluoromethanesulfonic acid 2-(5-bromo-naphthalen-2-ylmethyl)-3-oxo-cyclohex-1-enyl ester (7.7 g, 16.63 mmol) in THF (15 mL) was added dropwise. The mixture was stirred for 1 hour, quenched with aqueous NH4Cl, poured in to H2O and extracted with EtOAc. The organic extracts were dried over MgSO4. Evaporation gave a yellow oil residue which was taken up in methylene chloride (100 mL) and treated with trifluoroacetic acid (10 mL). The mixture was stirred for 5 hours and then the volatiles were removed in vacuo. The residue was purified by flash chromatography on acidic silica gel (eluting solvent hexane/EtOAc 1/1) to give a yellow solid (4.1 g, 66% yield, m.p 56°-58° C.).

reactant | tert-butyl acetate | 19.96 mmol, 2.7 mL | C(C)(=O)OC(C)(C)C | C6H12O2
reactant | lithium bis(trimethylsilyl)amide | 21.62 mmol, 1.0M, 21.62 mL | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | trifluoromethanesulfonic acid 2-(5-bromo-naphthalen-2-ylmethyl)-3-oxo-cyclohex-1-enyl ester | 16.63 mmol, 7.7 g | BrC1=C2C=CC(=CC2=CC=C1)CC1=C(CCCC1=O)OS(=O)(=O)C(F)(F)F | C18H14BrF3O4S
reactant | trifluoroacetic acid | 10 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | THF | 35 mL | C1CCOC1 | C4H8O
solvent | THF | 15 mL | C1CCOC1 | C4H8O
solvent | methylene chloride | 100 mL | C(Cl)Cl | CH2Cl2
product | [2-(5-Bromo-naphthalen-2-ylmethyl)-3-oxo-cyclohex-1-enyl]-acetic acid | BrC1=C2C=CC(=CC2=CC=C1)CC1=C(CCCC1=O)CC(=O)O | C19H17BrO3
